*****************************************************************
* NXP BUK9Y8R7-60E
*
* Polarity N-Channel
* Ratings 60V/8.700000E-003OHMS/86.4831894488051A
*
* Date Created Tue Feb 19 07:02:55 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y8R7-60E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 2e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5e-10
RLS2 SOURCE 8 1.25663706143592
RLS1 8 7 0.00018

RDS 7 4 6000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00533575438121173 TC=0.00500111943428053,1.3596788833903E-05
RBD 9 4 0.00107881540759125 TC=0.00500111943428053,1.3596788833903E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 3.25e-09
RG 1 2 2.04499376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	3418.86
+ -10	3415.25
+ -8	3409.77
+ -6	3400.37
+ -5	3392.14
+ -4	3377.75
+ -3	3339.17
+ -2	3124.3
+ -1	1942.76
+ -0.5	1318.42
+ -0.2	873.085
+ -0.1	862.567
+ 0	635.37468
+ 0.1	483.71052
+ 0.2	483.20892
+ 0.5	411.75712
+ 1	343.41608
+ 2	256.88628
+ 3	223.38668
+ 4	207.90184
+ 5	198.6946
+ 6	192.48212
+ 8	184.1186
+ 10	178.21256
+ 12	173.4076
+ 15	167.27976
+ 16	165.33284
+ 20	158.64404
+ 25	151.43148
+ 30	145.573
+ 40	137.20556



.MODEL MINT NMOS(Vto=2.05169587474486 Kp=2.844867e+002 Nfs=330000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=5.38817865302216e-13
+ N=1 M=0.58 VJ=0.57 Fc=0.5 Cjo=1.29274604e-09 Tt=1.5064e-08)

.ENDS

